US06448397B1
4-Chlorobutyl 1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-yl Ether
To a mixture of 1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-ol (0.5 g, 1.66 mmol) in dry DMF (5 mL) is added potassium carbonate (1.15 g, 8.3 mmol) and 1-bromo-4-chlorobutane (1.4 g, 8.3 mmol). The mixture is heated at 85° C., under argon, for 4 h. The mixture is then cooled to room temperature and water (50 mL) is added. The mixture is transferred to a separatory funnel and partitioned between water and ether. The ether layer is washed with water (50 mL) then dried over anhydrous sodium sulfate. The ether filtrates are then concentrated. Column chromatography (50 mL silica) using hexanes followed by hexanes/methylene chloride (1:1) gave 0.373 g (57%) of the title compound.

reactant | 1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-ol | 1.66 mmol, 0.5 g | C1(=CC=CC=C1)C1COC=2C=CC=C3C4=C(C=CC=C4N1C23)O | C20H15NO2
reactant | potassium carbonate | 8.3 mmol, 1.15 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-4-chlorobutane | 8.3 mmol, 1.4 g | BrCCCCCl | C4H8BrCl
reactant | water | 50 mL | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-Chlorobutyl 1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-yl Ether | 0.373 g, 57% | C1(=CC=CC=C1)C1COC=2C=CC=C3C=4C(=CC=CC4N1C23)OCCCCCl | C24H22ClNO2
